US08492395B2
A mixture of 5-(tert-butoxycarbonylamino-methyl)-2-nitro-benzoic acid methyl ester (52.5 g, 169.3 mmol), lithium hydroxide (4.86 g, 203.1 mmol) in methanol (546 mL) and water (273 mL) was stirred with a mechanical stirrer at room temp overnight. The methanol was evaporated, and to the aqueous solution, was added 1 N HCl (270 mL) to form the precipitate. Ether (350 mL) was added, and the mixture was stirred at 0° C. for 2 hours. The mixture was evaporated. To the residue, was added water (500 mL). The aqueous layer was extracted with methylene chloride (3×100 mL). The combined organic layers were separated, dried over magnesium sulfate, and concentrated to give 5-(tert-butoxycarbonylamino-methyl)-2-nitro-benzoic acid as a brown oil (21.0 g, 41% yield). The product was used in the next step without further purification.

reactant | 5-(tert-butoxycarbonylamino-methyl)-2-nitro-benzoic acid methyl ester | 169.3 mmol, 52.5 g | COC(C1=C(C=CC(=C1)CNC(=O)OC(C)(C)C)[N+](=O)[O-])=O | C14H18N2O6
reactant | lithium hydroxide | 203.1 mmol, 4.86 g | [OH-].[Li+]
reactant | Ether | 350 mL | CCOCC | C4H10O
solvent | methanol | 546 mL | CO | CH4O
solvent | water | 273 mL | O | H2O
product | 5-(tert-butoxycarbonylamino-methyl)-2-nitro-benzoic acid | 21.0 g, 41% yield | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C13H16N2O6
